US04245088
In dichloromethane (25 ml) was dissolved 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid triethylamine salt (3.60 g), followed by addition of phthalic anhydride (1.80 g). The mixture was stirred at room temperature for 2 hours, after which time it was treated in a manner similar to that described in Example 8. The procedure provided 7β-(2-thienylacetamido)-3-(2-carboxybenzoyloxy)methyl-3-cephem-4-carboxylic acid (3.44 g).

reactant | 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid triethylamine salt | 3.60 g | C(C)N(CC)CC.S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O
reactant | phthalic anhydride | 1.80 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7β-(2-thienylacetamido)-3-(2-carboxybenzoyloxy)methyl-3-cephem-4-carboxylic acid | 3.44 g | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C2=C(C=CC=C2)C(=O)O)=O)C(=O)O)C1=O | C22H18N2O8S2
